US04293675
Preparation of the Antimony Pentachloride-Dimethylmethylphosphonate Complex (Catalyst A).
In a round bottom flask, under a nitrogen atmosphere, 7.61 g (0.0254 M) of antimony pentachloride was dissolved in 75 ml of methylene chloride. To this yellow solution was added dropwise with stirring a solution of 3.16 g (0.0254 M) of dimethylmethylphosphonate in 20 ml of methylene chloride. The addition was accomplished at a rate such that the exotherm did not become excessive, the temperature being kept below the reflux temperature of methylene chloride (cooling should not be required). By the end of the addition, the initial yellow color had dissipated. The reaction mixture was stirred at ambient temperature for one hour, after which time the solvent was removed by evaporation at reduced pressure. The crystalline product was thoroughly dried in vacuo (0.1 mm Hg). Analysis calculated for C3H9Cl5O3PSb: % Cl=41.9, observed=42.0%. NMR (CDCl3, TMS):δ4.12 (d,6H,J=11.6Hz), 2.08 (d,3H,J=17.6 Hz).

reactant | antimony pentachloride | 0.0254 M, 7.61 g | [Sb](Cl)(Cl)(Cl)(Cl)Cl
reactant | dimethylmethylphosphonate | 0.0254 M, 3.16 g | COP(OC)(=O)C | C3H9O3P
solvent | methylene chloride | 75 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 20 ml | C(Cl)Cl | CH2Cl2
product | Antimony Pentachloride Dimethylmethylphosphonate | [Sb](Cl)(Cl)(Cl)(Cl)Cl.COP(OC)(=O)C | InChI=1S/C3H9O3P.5ClH.Sb/c1-5-7(3,4)6-2;;;;;;/h1-3H3;5*1H;/q;;;;;;+5/p-5
